US07432392B2
To a solution of 4-benzyloxy-2-bromo-3,5-difluorophenylamine (3.33 g) in THF (35 mL) were added di-tert-butylcarbonate (6.95 g) and 4-dimethylaminopyridine (130 mg), and the mixture was heated under reflux for 2 hours. The reaction mixture was allowed to stand for cooling to room temperature, and concentrated. The residue was diluted with ethyl acetate and washed with 0.5N hydrochloric acid and saturated aqueous brine, dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=20:1) to give (4-benzyloxy-2-bromo-3,5-difluorophenyl)carbamic acid tert-butyl ester (3.9 g).

reactant | 4-benzyloxy-2-bromo-3,5-difluorophenylamine | 3.33 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1F)N)Br)F | C13H10BrF2NO
reactant | di-tert-butylcarbonate | 6.95 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | THF | 35 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 130 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (4-benzyloxy-2-bromo-3,5-difluorophenyl)carbamic acid tert-butyl ester | 3.9 g | C(C)(C)(C)OC(NC1=C(C(=C(C(=C1)F)OCC1=CC=CC=C1)F)Br)=O | C18H18BrF2NO3
